US07071358B2
Step B. 2-(4-Cyclopentylamino-phenyl)-1,1,1-trifluoro-4-phenyl-but-3-yn-2-ol
To a solution of 0.4 ml of phenylacetylene (3.6 mmol in 10 ml of THF at −78° C. was added 1.9 ml (4.75 mmol) of a 2.5 M solution of n-butyllithium in hexanes. The color of the solution turned dark blue and the reaction mixture was stirred at −78° C. for 30 min. After this time, a solution of 450 mg of 1-(4-cyclopentylamino-phenyl)-2,2,2-trifluoro-ethanone (1.75 mmol) in 2 ml of THF was added and the resultant mixture stirred at −78° C. for 1.5 h before being allowed to warn to room temperature and stirred for a further 14 h. After this time, the reaction was quenched by the addition of a saturated aqueous solution of ammonium chloride and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography on silica (hexanes:EtOAc, 3:1) to give the title compound. 1H-NMR (CDCl3) δ 1.48–1.56 (m, 2H), 1.68–1.76 (m, 4H), 2.03–2.14 (m, 2H), 3.76–3.85 (m, 1H), 6.65 (d, J=8.6 Hz, 2H), 7.36–7.82 (m, 10H). Mass Spectrum (CI+) m/e=360.1 (M+1).

reactant | phenylacetylene | 0.4 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-(4-cyclopentylamino-phenyl)-2,2,2-trifluoro-ethanone | 1.75 mmol, 450 mg | C1(CCCC1)NC1=CC=C(C=C1)C(C(F)(F)F)=O | C13H14F3NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-(4-Cyclopentylamino-phenyl)-1,1,1-trifluoro-4-phenyl-but-3-yn-2-ol | C1(CCCC1)NC1=CC=C(C=C1)C(C(F)(F)F)(C#CC1=CC=CC=C1)O | C21H20F3NO
